US08193189B2
8-Bromo-3,4-dihydro-1H-quinoxalin-2-one
10.33 g (ca. 25.9 mmol) (3-Bromo-2-nitro-phenylamino)-acetic acid ethyl ester is hydrogenated in the presence of 2.84 g Ra—Ni (B113W EtOH, Degussa) in 340 ml of THF:EtOH=1:1 for 20 h. The reaction mixture is filtered on hyflo and the filtrate is concentrated in vacuo. A mixture of the title compound with uncyclized (2-Amino-3-bromo-phenylamino)-acetic acid ethyl ester is obtained and used as obtained in the next synthetic step.

reactant | (3-Bromo-2-nitro-phenylamino)-acetic acid ethyl ester | ca. 25.9 mmol, 10.33 g | C(C)OC(CNC1=C(C(=CC=C1)Br)[N+](=O)[O-])=O | C10H11BrN2O4
reactant | EtOH | CCO | C2H6O
solvent | THF | 340 ml | C1CCOC1 | C4H8O
catalyst | Ra—Ni | 2.84 g | [Ni] | Ni
product | 8-Bromo-3,4-dihydro-1H-quinoxalin-2-one | BrC=1C=CC=C2NCC(NC12)=O | C8H7BrN2O
